US05869518
γ-oxo-α-(phenylmethyl)-5,6-dihydro-4H-thieno[3,4-c]pyrrole-5-butanoic acid.
15 ml of ethanol are added to a solution of 1.22 g (3 mmol) of phenylmethyl γ-oxo-α-(phenylmethyl)-5,6-dihydro-4H-thieno[3,4-c]pyrrole-5-butanoate in 15 ml of tetrahydrofuran, followed, at 0° C., by a solution of 0.36 g (9 mmol) of sodium hydroxide. After 1 h at room temperature, the medium is concentrated to about 15 ml, 15 ml of water are added and then the mixture is acidfied with 2N hydrochloric acid to pH 2 and extracted with three times 25 ml of ethyl acetate. The organic phases are pooled, washed with a saturated sodium chloride solution, dried over sodium sulphate and evaporated to dryness. The residue is triturated with diethyl ether to give 0.71 g of a white solid.

reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | phenylmethyl γ-oxo-α-(phenylmethyl)-5,6-dihydro-4H-thieno[3,4-c]pyrrole-5-butanoate | 3 mmol, 1.22 g | O=C(CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)N1CC=2C(C1)=CSC2 | C24H23NO3S
reactant | sodium hydroxide | 9 mmol, 0.36 g | [OH-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | γ-oxo-α-(phenylmethyl)-5,6-dihydro-4H-thieno[3,4-c]pyrrole-5-butanoic acid | 0.71 g | O=C(CC(C(=O)O)CC1=CC=CC=C1)N1CC=2C(C1)=CSC2 | C17H17NO3S
